US09376422B2
Step 1: Synthesis of methyl 5-chloro-3-(ethyl(isobutyl)amino)-2-methylbenzoate
To a stirred solution of methyl 5-chloro-3-(isobutyl amino)-2-methylbenzoate (1.0 g, 3.9 mmol) in dry DMF (10 mL), cesium carbonate (2.55 g, 7.82 mmol) and ethyl iodide (6.09 g, 39.1 mmol) were added. The resulting reaction mass was heated at 80° C. for 12 h. On completion, the reaction mass was cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated to give crude material which then used for next step as is (10 g, 91%).

reactant | methyl 5-chloro-3-(isobutyl amino)-2-methylbenzoate | 3.9 mmol, 1.0 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NCC(C)C | C13H18ClNO2
reactant | cesium carbonate | 7.82 mmol, 2.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 39.1 mmol, 6.09 g | C(C)I | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 5-chloro-3-(ethyl(isobutyl)amino)-2-methylbenzoate | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(CC(C)C)CC | C15H22ClNO2
